US08426420B2
iv) Pyrrolidin-3-yl-carbamic acid butyl ester
A solution of 467 mg 3-butoxycarbonylamino-pyrrolidine-1-carboxylic acid benzyl ester in 10 ml ethyl acetate was stirred in the presence of 100 mg Pd/C (10%) under an atmosphere of hydrogen (1 bar) for 12 h. The reaction mixture was filtrated, washed with ethyl acetate and concentrated to give the title compound as colorless oil.

reactant | 3-butoxycarbonylamino-pyrrolidine-1-carboxylic acid benzyl ester | 467 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)NC(=O)OCCCC | C17H24N2O4
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | Pyrrolidin-3-yl-carbamic acid butyl ester | C(CCC)OC(NC1CNCC1)=O | C9H18N2O2
